US07842685B2
Synthesis of 3-fluoro-N-(2-hydroxyethyl)-N-methyl-4-(5-(1-phenylcyclopropyl)-[1,3]thiazolo[5,4-b]pyridin-2-yl)benzamide
The title compound was synthesized using the procedure described in Example 105 above, with 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid (98 mg, 0.251 mmol) and 2-(methylamino)ethanol (24 μl, 0.301 mmol). MS (ESI) m/z: Calculated: 447.1; Observed: 448.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid | 0.251 mmol, 98 mg | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | 2-(methylamino)ethanol | 0.301 mmol, 24 μl | CNCCO | C3H9NO
product | 3-fluoro-N-(2-hydroxyethyl)-N-methyl-4-(5-(1-phenylcyclopropyl)-[1,3]thiazolo[5,4-b]pyridin-2-yl)benzamide | FC=1C=C(C(=O)N(C)CCO)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C25H22FN3O2S
